US07576082B2
A solution of cyclohexyl magnesium bromide in ether (2.0 M, 3.10 mL, 6.25 mmol) (Aldrich) was added dropwise to a suspension of 6-chloroisatin (0.45 g, 2.5 mmol) (Crescent) in tetrahydrofuran (12.5 mL) with cooling in a −25° C. bath and magnetic stirring at such a rate that reaction temperature was kept below −10° C. Cooling bath was then removed and mixture was allowed to warm to room temperature. After stirring for an additional 2 hours, 15% aqueous ammonium chloride solution (12.5 mL) was added and mixture was extracted with ethyl acetate. Ethyl acetate layers were then washed with water, brine, combined, dried (Na2SO4), filtered and concentrated. Residue was stirred in dichloromethane at room temperature for 30 minutes and filtered to give crude rac-6-chloro-3-cyclohexyl-3-hydroxy-1,3-dihydro-indol-2-one as an off-white powder. (Yield 0.28 g, 43%).

reactant | cyclohexyl magnesium bromide | C1(CCCCC1)[Mg]Br
reactant | ether | 6.25 mmol, 2.0 M, 3.10 mL | CCOCC | C4H10O
reactant | 6-chloroisatin | 2.5 mmol, 0.45 g | ClC1=CC=C2C(C(NC2=C1)=O)=O | C8H4ClNO2
solvent | tetrahydrofuran | 12.5 mL | O1CCCC1 | C4H8O
product | rac-6-chloro-3-cyclohexyl-3-hydroxy-1,3-dihydro-indol-2-one | ClC1=CC=C2C(C(NC2=C1)=O)(O)C1CCCCC1 | C14H16ClNO2
